US03940389
Methyl 5-chloro-3-methyl-2-((((1-methylethyl)amino)sulfonyl)amino)benzoate (26.31 grams; 0.08 mole) was mixed with 200 milliliters (ml) of methanol and sodium methoxide (8.84 grams; 0.164 mole) added thereto. The resulting reaction mixture was heated at the reflux temperature thereof for a period of 5 hours. The solvent was then removed in vacuo leaving a solid brown residue which was dissolved in 200 ml. of water. Sodium bicarbonate (20 grams) was added to the aqueous mixture and the resulting oily layer separated from the aqueous layer. The aqueous layer was acidified with dilute hydrochloric acid and the mixture extracted with ether. The ether extract was reduced in volume by evaporation in vacuo to give a light yellow oil which was dissolved in benzene, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to give a light yellow powder. Recrystallization of the powder from methylene chloride and hexane gave the desired 6-chloro-8-methyl-3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide product as a white crystalline solid having a melting point of 142°-144°C.

reactant | Methyl 5-chloro-3-methyl-2-((((1-methylethyl)amino)sulfonyl)amino)benzoate | 0.08 mole, 26.31 grams | ClC=1C=C(C(=C(C(=O)OC)C1)NS(=O)(=O)NC(C)C)C | C12H17ClN2O4S
reactant | methanol | 200 milliliters | CO | CH4O
reactant | sodium methoxide | 0.164 mole, 8.84 grams | C[O-].[Na+]
reactant | Sodium bicarbonate | 20 grams | C([O-])(O)=O.[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 6-chloro-8-methyl-3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide | ClC=1C=C(C2=C(C(N(S(N2)(=O)=O)C(C)C)=O)C1)C | C11H13ClN2O3S
